US08877801B2
To a 30 mL screw cap vial, (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (50 mg, 0.115 mmol) was dissolved in DMF (2 mL). The vial was charged with O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (27.0 mg, 0.230 mmol), HATU (65.6 mg, 0.173 mmol), and DIEA (0.060 mL, 0.345 mmol). The reaction mixture was stirred for 30 min at room temperature. The reaction was quenched with sat. NH4Cl and diluted with DCM. The organic phase was collected (phase separator) and concentrated by vacuum to afford to crude product. The crude material was purified by column chromatography (SiO2, 1-80% Heptanes/EtOAc) to afford (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)-N-((tetrahydro-2H-pyran-2-yl)oxy)acrylamide (53 mg, 0.099 mmol, 86% yield). 1H NMR (400 MHz, CD3OD) δ ppm=1.48-1.73 (m, 3H), 1.73-1.96 (m, 3H), 2.36 (s, 3H), 3.56-3.70 (m, 1H), 3.89 (s, 3H), 3.98-4.14 (m, 1H), 4.96 (br. s., 1H), 6.35 (d, J=15.66 Hz, 1H), 6.79-6.95 (m, 3H), 6.95-7.07 (m, 2H), 7.26-7.39 (m, 2H), 7.39-7.48 (m, 3H), 7.52 (d, J=16.17 Hz, 1H). LC/MS (m/z, MH+): 534.1.

reactant | (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.115 mmol, 50 mg | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)O)C | C25H19FO4S
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 0.230 mmol, 27.0 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HATU | 0.173 mmol, 65.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.345 mmol, 0.060 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)-N-((tetrahydro-2H-pyran-2-yl)oxy)acrylamide | 0.099 mmol, 53 mg, 86% yield | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)NOC2OCCCC2)C | C30H28FNO5S
